US04952699
Synthesis of 4-(2-n-nonyl-1,3,4-thiadiazole-5-yl)-benzoic acid
2-Nonyl-5-(4-methoxycarbonylphenyl)-1,3,4-thiadiazole (0.02 moles, 7.4 g) is added to a solution of 0.2 moles (11.2 g) KOH in 400 mL methanol and heated for 2 hours at the boiling point. The solvent is distilled of in a rotary evaporator and the residue is dissolved in 200 mL of water and acidified with concentrated hydrochloric acid.

reactant | 2-Nonyl-5-(4-methoxycarbonylphenyl)-1,3,4-thiadiazole | 0.02 moles, 7.4 g | C(CCCCCCCC)C=1SC(=NN1)C1=CC=C(C=C1)C(=O)OC | C19H26N2O2S
reactant | KOH | 0.2 moles, 11.2 g | [OH-].[K+]
solvent | methanol | 400 mL | CO | CH4O
product | 4-(2-n-nonyl-1,3,4-thiadiazole-5-yl)-benzoic acid | C(CCCCCCCC)C=1SC(=NN1)C1=CC=C(C(=O)O)C=C1 | C18H24N2O2S
